US06528525B1
2-Butyl-3-[4-[2-(4′-hydroxybiphenyl-4-carbonylamino)ethoxy]phenyl]propionic acid (exemplification No. 4-206 compound)
In a similar manner to that described in Example 2, ethyl 2-butyl-3-[4-[2-(4′-hydroxybiphenyl-4-carbonylamino)ethoxy]phenyl]propionate (260 mg), which is the product of Example 25, was reacted with aqueous sodium hydroxide solution (1N, 2.20 ml) and the reaction mixture was treated to give the title compound (230 mg) as a white powder.

reactant | ethyl 2-butyl-3-[4-[2-(4′-hydroxybiphenyl-4-carbonylamino)ethoxy]phenyl]propionate | 260 mg | C(CCC)C(C(=O)OCC)CC1=CC=C(C=C1)OCCNC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C30H35NO5
reactant | sodium hydroxide | 1N, 2.20 ml | [OH-].[Na+]
product | 2-Butyl-3-[4-[2-(4′-hydroxybiphenyl-4-carbonylamino)ethoxy]phenyl]propionic acid | 230 mg | C(CCC)C(C(=O)O)CC1=CC=C(C=C1)OCCNC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C28H31NO5
